US07361763B2
Step 2: Synthesis of 2-Amino-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide
Into a 5 mL Personal Chemistry microwave reaction vial were added 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.167 g, 0.331 mmol), 2-amino-5-bromo-N,N-dimethyl-benzamide (0.088 g, 0.364 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (14 mg, 0.017 mmol), acetonitrile (5 mL) and saturated aqueous NaHCO3 (5 mL). The vial was sealed, purged with N2, and irradiated in a Personal Chemistry Optimizer at 90° C. for 5 min. The layers were separated, and the aqueous phase was extracted 3× with EtOAc. The combined organic phase was treated with brine, dried (Na2SO4), filtered and adsorbed onto silica gel. The crude material was purified by silica gel chromatography in an EtOAc (containing 10% MeOH) and hexane gradient. The purified material was dissolved in a MeOH/acetone solution (5 mL) and 200 uL of a 50% KOH solution was added and the solution was stirred at room temperature for 3 hours. The reaction was quenched by adding 1 M citric acid dropwise until pH=5. The quenched reaction mixture was partitioned between EtOAc and water, the layers were separated, and the aqueous phase was extracted 2× with EtOAc. The combined organic phase was treated with brine, dried (Na2SO4), filtered and adsorbed onto silica gel. The material was purified on amino silica in an EtOAc (containing 10% MeOH) and hexane gradient to afford the title compound as a pale yellow powder (13.5 mg, 11% yield). 1H-NMR (500 MHz, d6-DMSO) δ=11.80 (br. s, 1H), 8.42 (d, J=2.0 Hz, 1H), 8.02 (d, J=2.0 Hz, 1H), 7.68 (d, J=2.5 Hz, 1H), 7.58 (dd, J=1.5, 6.0 Hz, 1H), 7.44 (dd, J=2.0, 6.0 Hz, 1H), 7.31 (d, J=2.0 Hz, 1H), 7.27 (t, J=7.5 Hz, 1H), 7.12 (d, J=7.5 Hz, 1H), 7.04 (t, J=7.0 Hz, 1H), 6.80 (d, J=9.0 Hz, 1H), 5.26 (s, 2H), 3.80 (s, 3H), 2.95 (s, 6H). MS: m/z 387.1 [MH+].

reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.331 mmol, 0.167 g | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | 2-amino-5-bromo-N,N-dimethyl-benzamide | 0.364 mmol, 0.088 g | NC1=C(C(=O)N(C)C)C=C(C=C1)Br | C9H11BrN2O
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-Amino-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 13.5 mg, 11% yield | NC1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC | C23H22N4O2
